US04005153
Preparation of di(tetrachlorophenyl)tetrachlorocyclopentadiene
A mixture of 1,2,3,4-tetrachlorobenzene, 130 grams (0.6 mole), hexachlorocyclopentadiene, 65 grams (0.24 mole), and aluminum chloride, 5 grams, was heated on a steam bath at 75°-90° centigrade until the evolution of hydrogen chloride stopped and the reaction mixture solidified. The purple solid was triturated with acetone to dissolve the aluminum chloride, filtered, washed with acetone and dried to give a tan, solid product.

reactant | 1,2,3,4-tetrachlorobenzene | ClC1=C(C(=C(C=C1)Cl)Cl)Cl | C6H2Cl4
reactant | hexachlorocyclopentadiene | ClC1(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C5Cl6
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrogen chloride | Cl | ClH
product | di(tetrachlorophenyl)tetrachlorocyclopentadiene | ClC=1C(=C(C(=C(C1)C1(C(=C(C(=C1Cl)Cl)Cl)Cl)C1=C(C(=C(C(=C1)Cl)Cl)Cl)Cl)Cl)Cl)Cl | C17H2Cl12
